US06060592
2-Methyl-1-(2', 3',5'-tri-O-benzoyl-β-D-ribofuranosyl)pyrimidin-4 -one
2-Methylpyrimidin-4-one (4.42 g, 40 mmol) and a few crystals of ammonium sulfate were refluxed in HMDS overnight. After cooling to room temperature the colorless solution was evaporated. A solution of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribose (40 mmol, 20.18 g) in 1,2-dichloroethane (200 ml) was added to the residue. Trimethylsilyl trifluoromethanesulfonate (TMSOTfl, 9.78 g, 44 mmol) was added and the resulting clear solution was stirred at room temperature for 2 hrs. The reaction mixture was poured in to saturated NaHCO3 (300 ml) and extracted with chloroform (2×200 ml). The organic phase was evaporated to give a colorless homogeneous foam (23.04 g, 104%, pure by NMR).

reactant | 2-Methylpyrimidin-4-one | 40 mmol, 4.42 g | CC1=NC=CC(N1)=O | C5H6N2O
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribose | 40 mmol, 20.18 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | Trimethylsilyl trifluoromethanesulfonate | 44 mmol, 9.78 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | NaHCO3 | 300 ml | C(=O)(O)[O-].[Na+]
solvent | HMDS | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2-Methyl-1-(2', 3',5'-tri-O-benzoyl-β-D-ribofuranosyl)pyrimidin-4 -one | CC=1N(C=CC(N1)=O)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C31H26N2O8
